US08685969B2
3. Benzyl 3-(1-(6-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate
6-(3-(tert-Butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indole (1.867 g, 5.90 mmol) and (E)-benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate (1.5354 g, 4.92 mmol) were dissolved in THF (40 mL), concentrated in vacuo, and the mixture was heated at 110° C. for 1 hr. The reaction mixture was cooled to room temperature and purified by flash chromatography using an ISCO 220 g column eluting with 25-100% EtOAc/hexanes to give the desired product (1.0324 g, 1.642 mmol, 33.4% yield) as a tan solid.

reactant | 6-(3-(tert-Butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indole | 5.90 mmol, 1.867 g | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C=CNC2=C1 | C18H28N2OSi
reactant | (E)-benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate | 4.92 mmol, 1.5354 g | CC1=C(C=CC=C1\C=C\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C17H16N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Benzyl 3-(1-(6-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate | 1.642 mmol, 1.0324 g, 33.4% yield | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C(=CNC2=C1)C(C[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C35H44N4O5Si
